US09056859B2
To a solution of 2-(4-methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)propanoic acid (300 mg, 1.4 mmol) in 18 mL of anhydrous THF was added BH3.THF (2 mL, 2 mmol) dropwise at 0° C. Then the mixture was warmed to room temperature slowly and then stirred for 3 hours. Then the mixture was quenched with MeOH and the solvent was removed under vacuum. The residue was the purified via prep-TLC to give 5-(2-hydroxy-1-methylethyl)-4-methyl-2-benzofuran-1(3H)-one. 1H-NMR (400 MHz, CDCl3) δ ppm 7.73 (d, J=7.8 Hz, 1H), 7.40 (d, J=7.8 Hz, 1H), 5.23 (s, 2H), 3.77 (d, J=7.0 Hz, 2H), 3.36˜3.42 (m, 1H), 2.30 (s, 3H), 1.27 (d, J=7.0 Hz, 3H).

reactant | 2-(4-methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)propanoic acid | 1.4 mmol, 300 mg | CC1=C(C=CC=2C(OCC21)=O)C(C(=O)O)C | C12H12O4
reactant | BH3.THF | 2 mmol, 2 mL | B.C1CCOC1
solvent | THF | 18 mL | C1CCOC1 | C4H8O
product | 5-(2-hydroxy-1-methylethyl)-4-methyl-2-benzofuran-1(3H)-one | OCC(C)C1=C(C2=C(C(OC2)=O)C=C1)C | C12H14O3
